US06900353B2
Preparation of 2-[4-(1-Fluoro-2-{[(methylethyl)sulfonyl]amino}cyclopentyl)phenoxy]ethanenitrile
The title compound was prepared in a manner analogous to the procedure set forth in example 54 from 2-[4-(1-hydroxy-2-{[(methylethyl)sulfonyl]amino}cyclopentyl)phenoxy]ethanenitrile (90 mg, 0.27 mmol) and DAST (0.01 mL) to yield the title compound (95 mg) as an oil. This material was purified by silica gel chromatography employing the Chromatotron® and using a 1000 micron rotor while eluting with a solvent methylene chloride/ethyl acetate 19:1 to yield the title compound (80 mg, 87%) as an oil. Ion Spray M.S. 339.1 (M*−1) Calculated for C16H21N2O3SF: Theory: C, 56.45; H, 6.22; N, 8.23. Found: C, 56.18; H, 6.06; N, 8.13.

reactant | 2-[4-(1-hydroxy-2-{[(methylethyl)sulfonyl]amino}cyclopentyl)phenoxy]ethanenitrile | 0.27 mmol, 90 mg | OC1(C(CCC1)NS(=O)(=O)C(C)C)C1=CC=C(OCC#N)C=C1 | C16H22N2O4S
reactant | DAST | 0.01 mL | CCN(CC)S(F)(F)F | C4H10F3NS
product | 2-[4-(1-Fluoro-2-{[(methylethyl)sulfonyl]amino}cyclopentyl)phenoxy]ethanenitrile | 95 mg | FC1(C(CCC1)NS(=O)(=O)C(C)C)C1=CC=C(OCC#N)C=C1 | C16H21FN2O3S
